US09447114B2
To a solution of ethyl 3-(5-(4-chlorobenzyl)-1-methyl-2,4-dioxo-6-(3-(trifluoromethoxy)phenyl)-1,2-dihydrothieno[2,3-d]pyrimidin-3(4H)-yl)propanoate (51 mg, 0.09 mmol) in EtOH (2 mL) was added NaBH4 (10.2 mg, 0.27 mmol). The reaction was heated at 50° C. for 18 h, cooled to RT, quenched with aq. HCl (0.1N, 2 mL) then concentrated to a residue which was purified by Prep HPLC to give 5-(4-chlorobenzyl)-3-(3-hydroxypropyl)-1-methyl-6-(3-(trifluoromethoxy)phenyl) thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione (8.9 mg, 29.7% yield) as a white solid. 1H NMR (CD3OD) δ: 7.54-7.50 (m, 1H), 7.39 (d, J=8.0 Hz, 2H), 7.31 (d, J=8.4 Hz, 2H), 7.26 (s, 1H), 7.18 (d, J=8.4 Hz, 2H), 7.01 (d, J=8.4 Hz, 2H), 4.34 (s, 2H), 4.04 (t, J=6.8 Hz, 2H), 3.58-3.55 (m, 5H), 1.84-1.80 (m, 2H). LCMS: MH+ 525 and TR=3.382 min.

reactant | ethyl 3-(5-(4-chlorobenzyl)-1-methyl-2,4-dioxo-6-(3-(trifluoromethoxy)phenyl)-1,2-dihydrothieno[2,3-d]pyrimidin-3(4H)-yl)propanoate | 0.09 mmol, 51 mg | ClC1=CC=C(CC2=C(SC=3N(C(N(C(C32)=O)CCC(=O)OCC)=O)C)C3=CC(=CC=C3)OC(F)(F)F)C=C1 | C26H22ClF3N2O5S
reactant | NaBH4 | 0.27 mmol, 10.2 mg | [BH4-].[Na+]
solvent | EtOH | 2 mL | CCO | C2H6O
product | 5-(4-chlorobenzyl)-3-(3-hydroxypropyl)-1-methyl-6-(3-(trifluoromethoxy)phenyl) thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | 8.9 mg, 29.7% yield | ClC1=CC=C(CC2=C(SC=3N(C(N(C(C32)=O)CCCO)=O)C)C3=CC(=CC=C3)OC(F)(F)F)C=C1 | C24H20ClF3N2O4S
